US04966967
9-[(Methylsulfonyl)amino]-4-[4-[(methylsulfonyl)amino]benzoyl]-3,4,5,6-tetrahydro-2H-1,7,4-benzodioxazonine
To tetrahydrofuran add 9-[(methylsulfonyl)amino]-3,4,5,6-tetrahydro-2H-1,7,4-benzodioxazonine, pyridine, and 4-[(methylsulfonyl)amino]benzoyl chloride. Monitor the progress of the reaction by thin-layer chromatography. Upon completion, remove the solvent in vacuo. Partition the residue between aqueous NaHCO3 and EtOAc. Separate the layers and wash the organic layer with 1M aqueous HCl. Separate and dry (Na2SO4) the organic layer. Remove the solvent in vacuo to obtain the title compound.

reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | 9-[(methylsulfonyl)amino]-3,4,5,6-tetrahydro-2H-1,7,4-benzodioxazonine | CS(=O)(=O)NC1=CC2=C(OCCNCCO2)C=C1 | C11H16N2O4S
reactant | 4-[(methylsulfonyl)amino]benzoyl chloride | CS(=O)(=O)NC1=CC=C(C(=O)Cl)C=C1 | C8H8ClNO3S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 9-[(Methylsulfonyl)amino]-4-[4-[(methylsulfonyl)amino]benzoyl]-3,4,5,6-tetrahydro-2H-1,7,4-benzodioxazonine | CS(=O)(=O)NC1=CC2=C(OCCN(CCO2)C(C2=CC=C(C=C2)NS(=O)(=O)C)=O)C=C1 | C19H23N3O7S2
